US04187316
A solution of 188 mg (1 m mole) of tert-butoxycarbonylalanine in 5 ml of dichloromethane is treated with 101 mg (1 m mole) of triethylamine and 94 mg (1 m mole) of methyl chloroformate then added to a solution of 190 mg (1 m mole) of methyl 3-amino-1,5-cyclohexadienecarboxylate hydrochloride and 101 mg (1 m mole) of triethylamine in 5 ml of dichloromethane. After 1 hour at 25° C. the solution is washed with water, dried and evaporated. The residue is treated for 3 hours at 25° C. with 3 ml of methanol, 100 mg of sodium hydroxide and 2 ml of water then acidifie and extracted with dichloromethane. The organic phase is dryed and concentrated. The residue is treated with 7 ml of methanol containing 3.5 ml of 5% HCl for 18 hours at 25° C. then concentrated to afford 3-alanylamino-1,5 -cyclohexadiene carboxylic acid hydrochloride.

reactant | tert-butoxycarbonylalanine | 188 mg | C(C)(C)(C)OC(=O)N[C@@H](C)C(=O)O | C8H15NO4
reactant | triethylamine | 101 mg | C(C)N(CC)CC | C6H15N
reactant | methyl chloroformate | 94 mg | ClC(=O)OC | C2H3ClO2
reactant | methyl 3-amino-1,5-cyclohexadienecarboxylate hydrochloride | 190 mg | Cl.NC1C=C(C=CC1)C(=O)OC
reactant | triethylamine | 101 mg | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 3-alanylamino-1,5 -cyclohexadiene carboxylic acid hydrochloride | Cl.N[C@@H](C)C(=O)NC1C=C(C=CC1)C(=O)O | InChI=1S/C10H14N2O3.ClH/c1-6(11)9(13)12-8-4-2-3-7(5-8)10(14)15;/h2-3,5-6,8H,4,11H2,1H3,(H,12,13)(H,14,15);1H/t6-,8?;/m0./s1
